US06747023B1
1-[(6-Chloronaphthalen-2-yl)sulfonyl]-4-[4-[2-(dimethylaminomethyl)pyridin-4-yl]benzoyl]piperazine hydrochloride
In the same manner as in Referential Example 178, the corresponding brome compound was obtained using 1-[(6-chloronaphthalen-2-yl)sulfonyl]-4-[4-(2-hydroxymethylpyridin-4-yl)benzoyl]piperazine (300 mg). To the resulting compound, dimethylamine hydrochloride (469 mg) and potassium carbonate (795 mg) were added, followed by stirring for 24 hours. The solvent was then distilled off under reduced pressure. Ethyl acetate and water were added to the residue to separate the organic layer. The organic layer thus obtained was dried over anhydrous sodium sulfate. The residue obtained by distilling off the solvent under reduced pressure was purified by chromatography on a silica gel column (3 to 5% methanol—dichloromethane). Hydrochloric acid in ethanol was added and the resulting mixture was concentrated. Ethyl acetate was added to the concentrate. The colorless powder thus obtained was collected by filtration and dried, whereby the title compound (74 mg, 21%) was obtained.

reactant | 1-[(6-chloronaphthalen-2-yl)sulfonyl]-4-[4-(2-hydroxymethylpyridin-4-yl)benzoyl]piperazine | 300 mg | ClC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)N1CCN(CC1)C(C1=CC=C(C=C1)C1=CC(=NC=C1)CO)=O | C27H24ClN3O4S
reactant | dimethylamine hydrochloride | 469 mg | Cl.CNC
reactant | potassium carbonate | 795 mg | C([O-])([O-])=O.[K+].[K+]
product | 1-[(6-Chloronaphthalen-2-yl)sulfonyl]-4-[4-[2-(dimethylaminomethyl)pyridin-4-yl]benzoyl]piperazine hydrochloride | 74 mg, 21% | Cl.ClC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)N1CCN(CC1)C(C1=CC=C(C=C1)C1=CC(=NC=C1)CN(C)C)=O | InChI=1S/C29H29ClN4O3S.ClH/c1-32(2)20-27-18-25(11-12-31-27)21-3-5-22(6-4-21)29(35)33-13-15-34(16-14-33)38(36,37)28-10-8-23-17-26(30)9-7-24(23)19-28;/h3-12,17-19H,13-16,20H2,1-2H3;1H
